US05294734
16 g (101.1 mmol) of 6-acetoxyhexanal, 9.2 g (113 mmol) of dimethylammonium chloride and 9.2 ml (118.3 mmol) of a 37% solution of formaldehyde are stirred for 1 hour at a bath temperature of 110° C. The mixture is allowed to cool and extracted three times with CH2Cl2. The combined organic phases are dried over Na2SO4, filtered, and concentrated by evaporation giving 6-acetoxy-2-methylene-hexanal as a slightly yellowish oil which is further reacted without purification.

reactant | 6-acetoxyhexanal | 101.1 mmol, 16 g | C(C)(=O)OCCCCCC=O | C8H14O3
reactant | dimethylammonium chloride | 113 mmol, 9.2 g | [Cl-].C[NH2+]C
reactant | formaldehyde | C=O | CH2O
product | 6-acetoxy-2-methylene-hexanal | C(C)(=O)OCCCCC(C=O)=C | C9H14O3
